webench_design_1160921_77_ad14_sim
*SPICE Netlist generated by Advanced Sim server on 11.07.2016 09:46:44

*Schematic Netlist:
XCboot NetCboot_11 VSW LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Cboot
XCcomp VCOMP NetCcomp_24 LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Ccomp
XCcomp2 VCOMP VFB LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Ccomp2
XCin NetCin_1 0 LM5116_BUCK_BLOCK_Cin_WB_CAP_POLARIZED
XCinx NetCin_1 0 LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Cinx
XCout NetCout_2 0 LM5116_BUCK_BLOCK_Cout_WB_CAP_AL
XCramp NetCramp_6 0 LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Cramp
XCss NetCss_7 0 LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Css
XCvcc NetCvcc_10 0 LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Cvcc
XD1 NetCvcc_10 NetCboot_11
+ LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_D1_ENCR
VIcin VIN NetCin_1 0
VIcout VOUT NetCout_2 0
VIIC VIN NetIIC_2 0
VIIn NetIIn_1 VIN 0
VIinductor VSW NetIinductor_2 0
VILoad NetILoad_1 NetILoad_2 0
VIout VOUT NetILoad_1 0
XL1 NetIinductor_2 VOUT LM5116_BUCK_BLOCK_L1_WB_INDUCTOR
XM1 VIN NetM1_gate VSW LM5116_BUCK_BLOCK_M1_WB_POWER_N_MOSFET_ENCR
XM2 VSW NetM2_g1 NetM2_s1 LM5116_BUCK_BLOCK_M2_WB_POWER_N_MOSFET_ENCR
XRcomp NetCcomp_24 VFB LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Rcomp
XRenable VIN NetRenable_5
+ LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Renable
XRfbb VFB 0 LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Rfbb
XRfbt VOUT VFB LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Rfbt
XRload NetILoad_2 0 OUTPUT_BLOCK_WB_OUTPUT_BLOCK_STARTUP_PROBE_Rload
XRramp NetCvcc_10 NetCramp_6
+ LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Rramp
XRsense NetM2_s1 0 LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Rsense
XRt NetRt_4 0 LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Rt
XRuv1 NetRuv1_2 0 LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Ruv1
XRuv2 VIN NetRuv1_2 LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Ruv2
XU1 NetIIC_2 NetRuv1_2 NetRt_4 NetRenable_5 NetCramp_6 0 NetCss_7 VFB VCOMP VOUT
+ 0 NetM2_s1 0 0 NetM2_g1 NetCvcc_10 NetU1_VCCX NetCboot_11 NetM1_gate VSW
+ LM5116_BUCK_BLOCK_U1_WB_LM5116_ENCR
XVin_2 NetIIn_1 0 INPUT_BLOCK_Vin_WB_STARTUP_VOLTAGE_SOURCE

.SAVE 0 NetCboot_11 NetCcomp_24 NetCin_1 NetCout_2 NetCramp_6 NetCss_7 NetCvcc_10
.SAVE NetIIC_2 NetIIn_1 NetIinductor_2 NetILoad_1 NetILoad_2 NetM1_gate NetM2_g1
.SAVE NetM2_s1 NetRenable_5 NetRt_4 NetRuv1_2 NetU1_VCCX VCOMP VFB VIN VOUT VSW
.SAVE VIcin#branch VIcout#branch VIIC#branch VIIn#branch VIinductor#branch
.SAVE VILoad#branch VIout#branch @VIcin[z] @VIcout[z] @VIIC[z] @VIIn[z] @VIinductor[z]
.SAVE @VILoad[z] @VIout[z] @VIcin[p] @VIcout[p] @VIIC[p] @VIIn[p] @VIinductor[p]
.SAVE @VILoad[p] @VIout[p]

*PLOT TRAN -1 1 A=NetCboot_11
*PLOT OP -1 1 A=NetCboot_11

*Selected Circuit Analyses:
.TRAN 2E-8 5E-6 0 2E-8
.OP

*Models and Subcircuits:
.subckt LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Cboot 11 14
Cboot 11 14 1.0E-6
.ends

.subckt LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Ccomp 8 24
Ccomp 8 24 1.0E-9
.ends

.subckt LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Ccomp2 8 9
Ccomp2 8 9 2.7E-10
.ends

.SUBCKT LM5116_BUCK_BLOCK_Cin_WB_CAP_POLARIZED 1 2
Ccap 1 3 1.41E-5
Resr 3 2 0.0019633333333333334
.ENDS

.subckt LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Cinx 1 0
Cinx 1 0 1.0E-7
.ends

.SUBCKT LM5116_BUCK_BLOCK_Cout_WB_CAP_AL 2 4
R1 2 3 0.44
C1 3 1 2.7E-5 IC = 0.0
R3 5 4 150
R2 2 4 3.703703703703704E7
R4 3 26 5.5E10
R6 3 7 55000.0
C5 7 1 1.08E-5 IC = 0.0
R7 3 10 55000.0
C6 10 1 1.08E-5 IC = 0.0
R8 3 13 55000.0
C7 13 1 1.08E-5 IC = 0.0
C2 26 1 1.08E-5 IC = 0.0
R9 3 28 5.5E8
C3 28 1 1.08E-5 IC = 0.0
R10 3 29 5500000.0
C4 29 1 1.08E-5 IC = 0.0
L8 1 5 0.2e-9
R24 1 5 1.32
L12 5 4 10e-12
.ENDS

.subckt LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Cramp 6 0
Cramp 6 0 1.5E-9
.ends

.subckt LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Css 7 0
Css 7 0 1.0E-8
.ends

.subckt LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Cvcc 10 0
Cvcc 10 0 1.0E-6
.ends

.subckt LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_D1_ENCR 10 11
.include isspice://../LM5116_BUCK_BLOCK.WB_LM5116_BUCK_BLOCK_WITH_RRAMP.D1.enl
XCALL 10 11 LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_D1
.ENDS

.SUBCKT LM5116_BUCK_BLOCK_L1_WB_INDUCTOR 1 2
L1 2 3 1.0E-4
RDCR 3 1 0.106
.ENDS

.SUBCKT LM5116_BUCK_BLOCK_M1_WB_POWER_N_MOSFET_ENCR drain gate source
.include isspice://../LM5116_BUCK_BLOCK.M1.WB_POWER_N_MOSFET.enl
XCALL drain gate source LM5116_BUCK_BLOCK_M1_WB_POWER_N_MOSFET
.ENDS

.SUBCKT LM5116_BUCK_BLOCK_M2_WB_POWER_N_MOSFET_ENCR d1 g1 s1
.include isspice://../LM5116_BUCK_BLOCK.M2.WB_POWER_N_MOSFET.enl
XCALL d1 g1 s1 LM5116_BUCK_BLOCK_M2_WB_POWER_N_MOSFET
.ENDS

.subckt LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Rcomp 24 9
Rcomp 24 9 44200.0
.ends

.subckt LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Renable 3 5
Renable 3 5 1000000.0
.ends

.subckt LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Rfbb 9 0
Rfbb 9 0 1430.0
.ends

.subckt LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Rfbt 13 9
Rfbt 13 9 28000.0
.ends

.subckt OUTPUT_BLOCK_WB_OUTPUT_BLOCK_STARTUP_PROBE_Rload 1 2
Rload 1 2 12.5
.ends

.subckt LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Rramp 10 6
Rramp 10 6 121000.0
.ends

.subckt LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Rsense 12 0
Rsense 12 0 0.025
.ends

.subckt LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Rt 4 0
Rt 4 0 14300.0
.ends

.subckt LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Ruv1 2 0
Ruv1 2 0 3400.0
.ends

.subckt LM5116_BUCK_BLOCK_WB_LM5116_BUCK_BLOCK_WITH_RRAMP_Ruv2 3 2
Ruv2 3 2 86600.0
.ends

.SUBCKT LM5116_BUCK_BLOCK_U1_WB_LM5116_ENCR VIN UVLO RT EN RAMP GND SS FB COMP
+ OUT DEMB CS CSG PGND LO VCC VCCX BST HO SW
.include isspice://../LM5116_BUCK_BLOCK.U1.WB_LM5116.enl
XCALL VIN UVLO RT EN RAMP GND SS FB COMP OUT DEMB CS CSG PGND LO VCC VCCX BST HO
+ SW LM5116_BUCK_BLOCK_U1_WB_LM5116
.ENDS

.SUBCKT INPUT_BLOCK_Vin_WB_STARTUP_VOLTAGE_SOURCE 1 2
Rsource 3 1 50m
Vin1 3 2 PULSE 0 60.0 100u 10u
.ENDS

.END
